US08114894B2
2-(1-Isopropyl-1H-indol-3-yl)-2-oxo-N-(3-(piperidin-1-yl)propyl)acetamide hydrochloride
The title compound was prepared according to general procedure B described in Scheme 1. A solution of N-isopropylindole (480 mg, 3 mmol) in diethylether (10 mL) was cooled to 0° C. and treated dropwise with oxalyl chloride (303 μL, 3.5 mmol). The reaction was gradually warmed to RT over a 3 h period affording a yellow precipitate. The reaction mixture was concentrated under reduced pressure and the resulting yellow solid was dissolved in DCM (15 mL), cooled to 0° C. and treated with a solution of 1-piperidinepropanamine (313 g, 2 mmol) and triethylamine (334 μL, 2.4 mmol) in THF (10 mL). The reaction mixture was allowed to warm to RT and stirred for 14 h. The reaction mixture was concentrated under reduced pressure and the crude material was purified on silica gel (Biotage, 0-30% MeOH/DCM) and then converted to the HCl salt to provide the title compound as a purple solid (112 mg, 100% yield). 1H NMR (400 MHz, CDCl3): δ 12.19 (NH+, br s, 1H), 9.02 (s, 1H), 8.44 (dd, 1H), 7.95 (br t, 1H), 7.44 (m, 1H), 7.33 (m, 2H), 4.71 (m, 1H), 3.54 (m, 4H), 3.00 (m, 2H), 2.59 (m, 2H), 2.29 (m, 4H), 1.9-1.7 (m, 3H), 1.61 (d, 6H) 1.39 (m, 1H); MS (ESI) m/z: Calculated for C21H29N3O2: 355.2. Found: 356.3 (M+H)+.

reactant | N-isopropylindole | 3 mmol, 480 mg | C(C)(C)N1C=CC2=CC=CC=C12 | C11H13N
reactant | oxalyl chloride | 3.5 mmol, 303 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-piperidinepropanamine | 2 mmol, 313 g | N1(CCCCC1)CCCN | C8H18N2
reactant | triethylamine | 2.4 mmol, 334 μL | C(C)N(CC)CC | C6H15N
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(1-Isopropyl-1H-indol-3-yl)-2-oxo-N-(3-(piperidin-1-yl)propyl)acetamide hydrochloride | 112 mg, 100% yield | Cl.C(C)(C)N1C=C(C2=CC=CC=C12)C(C(=O)NCCCN1CCCCC1)=O | InChI=1S/C21H29N3O2.ClH/c1-16(2)24-15-18(17-9-4-5-10-19(17)24)20(25)21(26)22-11-8-14-23-12-6-3-7-13-23;/h4-5,9-10,15-16H,3,6-8,11-14H2,1-2H3,(H,22,26);1H
